US05424280
Preparation of Methyl {p-{5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitroanilino}phenoxy}acetate
A mixture of 2-chloro-α,α,α,6-tetrafluoro-p-tolyl 3-fluoro-4-nitrophenyl ether (2.1 g, 0.006 mol), methyl (p-aminophenoxy)acetate (2.7 g, 0.015 mol) and potassium carbonate (2.0 g, 0,015 mol) in N,N-dimethyl formamide is stirred at 80° C. for 18 hours, cooled to room temperature, poured into brine and extracted with ethyl acetate. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Flash chromatography of the residue using silica gel and a 20% ethyl acetate in hexanes solution gives the title product as a red oil (0.6 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-chloro-α,α,α,6-tetrafluoro-p-tolyl 3-fluoro-4-nitrophenyl ether | 0.006 mol, 2.1 g | FC=1C=C(C=CC1[N+](=O)[O-])OC1=CC(=C(C(=C1)F)C(F)(F)F)Cl | C13H5ClF5NO3
reactant | methyl (p-aminophenoxy)acetate | 0.015 mol, 2.7 g | NC1=CC=C(OCC(=O)OC)C=C1 | C9H11NO3
reactant | potassium carbonate | 0,015 mol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | Methyl {p-{5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitroanilino}phenoxy}acetate | 0.6 g | ClC1=C(C(=CC(=C1)OC=1C=CC(=C(NC2=CC=C(OCC(=O)OC)C=C2)C1)[N+](=O)[O-])F)C(F)(F)F | C22H15ClF4N2O6
